US06531491B1
2, 6-Dichlorobenzyl bromide (1.20 g, 5 mmol) was mixed with triethyl phosphite (1.66 g, 10 mmol) and heated at 150° C. for 2 h. The resulting mixture was then distilled at 160° C. under reduced pressure (10 mm Hg) to remove the excess triethyl phosphite. (2,6-Dichloro-benzyl)-phosphonic acid diethyl ester was obtained as a colorless liquid (1.46g, 100%). 1H NMR (300 MHz, CDCl3) δ 7.33-7.28 (m, 2H), 7.15-7.07 (m, 1H), 4.14-4.02 (m, 4H), 3.60 (d, 2H, J=22.4 Hz), 1.27 (t, 6H, J=7.0 Hz).

reactant | 2, 6-Dichlorobenzyl bromide | 5 mmol, 1.20 g | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
reactant | triethyl phosphite | 10 mmol, 1.66 g | P(OCC)(OCC)OCC | C6H15O3P
product | (2,6-Dichloro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1Cl)Cl | C11H15Cl2O3P
